US05998433
A solution of 2.408 g (14.75 mmol) of 5-allyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine, 0.55 g (0.59 mmol) of chlorotris(triphenylphosphine)rhodium (I) and 0.33 g (2.95 mmol) of 1,4-diazabicyclo[2,2,2]octane in 30 ml of 90% aqueous ethanol was refluxed for 2.5 hours. After cooling to room temperature, the reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting residue (crude 4,5,6,7-tetrahydrofuro[3,2-c]pyridine) was dissolved in 20 ml of dichloromethane. To this solution, a solution of 3.22 g (14.8 mmol) of di-tert-butyl dicarbonate in 5 ml of dichloromethane was added dropwise at room temperature, followed by stirring for 0.5 hours. The solvent was distilled off under reduced pressure; the resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=15/1) to yield 5-tert-butoxycarbonyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine.

reactant | 5-allyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | 14.75 mmol, 2.408 g | C(C=C)N1CC2=C(CC1)OC=C2 | C10H13NO
reactant | 1,4-diazabicyclo[2,2,2]octane | 2.95 mmol, 0.33 g | N12CCN(CC1)CC2 | C6H12N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 14.8 mmol, 3.22 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | chlorotris(triphenylphosphine)rhodium (I) | 0.59 mmol, 0.55 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | 5-tert-butoxycarbonyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C(C)(C)(C)OC(=O)N1CC2=C(CC1)OC=C2 | C12H17NO3
